US06787671B2
4,4′-Dinitro stilbene (13 mg) was dissolved in DMF (1 mL), and OsO4 (0.006 mL, 2.5% in LBuOH) was added and stirred for 5 min. OXONE (0.118 g) was added in one portion and the reaction had a final volume (1.2 mL). The reaction was stirred at room temperature for 3 hours or until the solution becomes colorless. This usually marks the completion of the reaction which was verified by TLC or GC. Na2SO3 (78 mg) was added, to reduce the remaining Os(VIII), and stirred for an additional hour or until solution became dark brown/black. EtOAc was added to extract the products and 1N HCl was used to dissolve the salts. The organic extract was washed with 1N HCl (10 mL×3) and brine (10 mL), dried over Na2SO4, and the solvent was removed under reduced pressure to obtain the crude product. 4-Nitro benzoic acid was obtained in 91% yield after purification by silica gel column chromatography.

reactant | 4,4′-Dinitro stilbene | 13 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10N2O4
reactant | OXONE | 0.118 g | OOS(=O)[O-].[K+]
reactant | Na2SO3 | 78 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | OsO4 | 0.006 mL | O=[Os](=O)(=O)=O
product | 4-Nitro benzoic acid | 91% yield | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
